US06583135B2
Preparation of tert-butyl 10-(2-Methylphenyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
tert-Butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.17 g, 3.2 mmol), Pd(PPh3)4 (0.39 g, 0.34 mmol), and dimethoxyethane (25 mL) were stirred at room temperature for 10 minutes then treated with 2-methylboronic acid (0.52 g, 3.8 mmol) and a 2 M solution of Na2CO3 (12 mL). The reaction was heated to reflux for 15.25 hours then cooled to room temperature and partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×) and the organic layers were combined, washed with brine, dried over MgSO4 and concentrated in vacuo to give a brown oil which was passed through a column of silica gel with 1:5 ethyl acetate/hexane to give 0.53 g (44%) of a brown oil as the title compound.

reactant | tert-Butyl 10-bromo-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 3.2 mmol, 1.17 g | BrC=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C17H21BrN2O2
reactant | dimethoxyethane | 25 mL | C(OC)COC | C4H10O2
reactant | Na2CO3 | 12 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
catalyst | Pd(PPh3)4 | 0.34 mmol, 0.39 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 10-(2-Methylphenyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | CC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCN(CC3)C(=O)OC(C)(C)C | C24H28N2O2
